****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT gll4747 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.85245 IS=1E-009 RS=0.0927232 EG=1.11 XTI=3
+ TT=1E-006 CJO=1E-011)
* Leakage
RL 1 2 5E+008 RLMOD
.MODEL RLMOD R(TC1=0.013 TC2=0 TNOM=25)
* Breakdown
EZ 2 3 5 0 1
R1 3 4 0.00596224
VD1 10 4 2.08811
D1 10 1 DMOD1 TEMP=27
.MODEL DMOD1 D(IS=1e-12 N=3.23827 RS=11.6086 TNOM=27)
VD2 20 4 0.378665
D2 20 1 DMOD2 TEMP=27
.MODEL DMOD2 D(IS=1e-12 N=0.97019 RS=7.94496 TNOM=27)
VD3 4 30 3.6558
D3 30 1 DMOD3 TEMP=27
.MODEL DMOD3 D(IS=1e-12 N=0.232558 RS=0.155187 TNOM=27)
I1 0 5 0.001
RVZ 5 0 20000 RVZMOD
.MODEL RVZMOD R(TC1=0.00175 TC2=0 TNOM=25)
.ENDS
